US07501413B2
A solution of 140 mg (0.36 mmol) of (1RS,2SR,3SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-phenyl-cyclopropanecarboxylic acid in 5 ml of methanol was treated at 0° C. with ca. 0.1 ml of thionylchloride and left to stirr overnight at RT. Evaporation of the solvent gave 160 mg of (1RS,2SR,3SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-phenyl-cyclopropanecarboxylic acid methylester. Light yellow oil. MS: 405 (M−H)−.

reactant | (1RS,2SR,3SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-phenyl-cyclopropanecarboxylic acid | 0.36 mmol, 140 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1C(C1C1=CC=CC=C1)C(=O)O | C22H17FN2O4
reactant | thionylchloride | ca. 0.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 5 ml | CO | CH4O
product | (1RS,2SR,3SR)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-phenyl-cyclopropanecarboxylic acid methylester | 160 mg | COC(=O)C1C(C1C1=CC=CC=C1)C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C23H19FN2O4
